US08193356B2
In accordance with a process described in JP-61-246183A, 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one was synthesized. To a suspension of the synthesized compound (953 mg, 4.0 mmol) in DMF (32 mL) was added sodium hydride (purity of about 60%, 352 mg, 8.8 mmol, 2.2 eq.), and the mixture was stirred at a room temperature for 45 minutes. Then, 2-trifluoromethylphenylacetyl chloride (4.8 mmol, 1.2 eq.) was added thereto with cooling in an ice bath, and the mixture was stirred at a room temperature for 1.5 hours. Thereafter, the resulting mixture was purified by a flash column chromatography to give 4-hydroxy-1-phenyl-3-(2-trifluoromethylphenylacetyl)-1,8-naphthyridin-2(1H)-one as a form of crystal (972 mg, yield 57%).

reactant | 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C14H10N2O2
reactant | sodium hydride | 8.8 mmol, 352 mg, 2.2 eq. | [H-].[Na+]
reactant | 2-trifluoromethylphenylacetyl chloride | 4.8 mmol, 1.2 eq. | FC(C1=C(C=CC=C1)CC(=O)Cl)(F)F | C9H6ClF3O
solvent | DMF | 32 mL | CN(C)C=O | C3H7NO
product | 4-hydroxy-1-phenyl-3-(2-trifluoromethylphenylacetyl)-1,8-naphthyridin-2(1H)-one | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)C(CC1=C(C=CC=C1)C(F)(F)F)=O | C23H15F3N2O3
